US07700657B2
(j) (E)-3-(3-{2-[3,4-Bis(tert-butyldimethylsilanyloxy-methyl)phenyl]ethyl}phenyl)pent-2-enal
2.8 g (5 mmol) of (E)-3-(3-{2-[3,4-bis(tert-butyldimethylsilanyloxymethyl)phenyl]ethyl}phenyl)pent-2-en-1-ol are dissolved in 50 ml of dichloromethane. 4.3 g (50 mmol) of manganese dioxide are added, and the reaction medium is stirred for 12 hours, then filtered and concentrated under reduced pressure. The desired product is obtained in the form of yellow oil (m=2.8 g; Y=100%).

reactant | (E)-3-(3-{2-[3,4-bis(tert-butyldimethylsilanyloxymethyl)phenyl]ethyl}phenyl)pent-2-en-1-ol | 5 mmol, 2.8 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=CC1CO[Si](C)(C)C(C)(C)C)CCC=1C=C(C=CC1)/C(=C/CO)/CC | C33H54O3Si2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | manganese dioxide | 50 mmol, 4.3 g | [O-2].[O-2].[Mn+4]
product | (E)-3-(3-{2-[3,4-Bis(tert-butyldimethylsilanyloxy-methyl)phenyl]ethyl}phenyl)pent-2-enal | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=CC1CO[Si](C)(C)C(C)(C)C)CCC=1C=C(C=CC1)/C(=C/C=O)/CC | C33H52O3Si2
